US05238932
Dissolve 2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl-5-hexenylamine (1.2 g, 3.19 mmol) in methylene chloride (40 mL) and methanol (4 mL) and cool to -78° C. under a nitrogen atmosphere. Treat with ozone until a blue color persists, degas with nitrogen for 20 minutes and add pyridine (0.2 mL). Quench with dimethylsulfide (4 mL) and stir overnight at room temperature. Dilute with methylene chloride (75 mL) and wash with 5% sulfuric acid (40 mL) and brine (40 mL). Dry (Na2SO4), evaporate the solvent in vacuo and purify by chromatography (hexane/ethyl acetate) to give 2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl-5-oxo-pentylamine as a white solid (972 mg, 80%).

reactant | 2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl-5-hexenylamine | 3.19 mmol, 1.2 g | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)NCCCC1=CC=CC=C1)CCC=C | C23H24N2O3
reactant | ozone | O=[O+][O-] | O3
solvent | methylene chloride | 40 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 4 mL | CO | CH4O
product | 2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)-1-oxo-3-phenylpropyl-5-oxo-pentylamine | 972 mg, 80% | O=C1N(C(C2=CC=CC=C12)=O)C(C(=O)NCCCC1=CC=CC=C1)CCC=O | C22H22N2O4
